US06262040B1
1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (4,6-dichloro-pyrimidin-5-yl)-amide
50 μL (0.680 mmol, 1.3 equiv) thionyl chloride were added to a room temperature solution of 135 mg (0.523 mmol, 1.0 equiv) 1-cyclopentyl-3-ethyl-1h-indazole-6-carboxylic acid and 10 μL DMF in 5 mL anhydrous toluene. The reaction mixture was heated to reflux for 2 hours, then cooled to room temperature, concentrated to dryness on a rotary evaporator, and dried at high vacuum, room temperature for several hours. 21 mg (0.523 mmol, 1.0 equiv) sodium hydride, 60% oil dispersion, were added to a separate flask containing a room temperature solution of 86 mg (0.523 mmol, 1.0 equiv) 5-amino-4,6-dichloro-pyrimidine in 5 mL anhydrous DMF. After 10 minutes, a solution of the acid chloride (prepared above) in 5 mL anhydrous DMF was added, and the mixture stirred for 24 hours at room temperature. The reaction mixture was then heated to 70° C. for 1.5 hours, cooled to room temperature, diluted with 75 mL ethyl acetate, washed 2×15 mL H2O, 1×16 mL brine, and dried over MgSO4. The crude product was purified on a silica gel column (20 % ethyl acetate/hexanes) to give 31 mg (15%) of white crystalline solid: mp 171-172° C.; Anal. calcd for C19H19N5OCl2: C, 56.44; H, 4.74; N, 17.32. Found: C, 56.38; H, 4.76; N, 17.33.

reactant | thionyl chloride | 0.680 mmol, 50 μL, 1.3 equiv | S(=O)(Cl)Cl | Cl2OS
reactant | 1-cyclopentyl-3-ethyl-1h-indazole-6-carboxylic acid | 0.523 mmol, 135 mg, 1.0 equiv | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C(=O)O)CC | C15H18N2O2
reactant | sodium hydride | 0.523 mmol, 21 mg, 1.0 equiv | [H-].[Na+]
reactant | 5-amino-4,6-dichloro-pyrimidine | 0.523 mmol, 86 mg, 1.0 equiv | NC=1C(=NC=NC1Cl)Cl | C4H3Cl2N3
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 μL | CN(C)C=O | C3H7NO
product | 1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (4,6-dichloro-pyrimidin-5-yl)-amide | 31 mg, 15% | ClC1=NC=NC(=C1NC(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC)Cl | C19H19Cl2N5O
